US08258160B2
Preparation of N-benzyl-2-(N′-hydroxycarbamimidoyl)-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-2-cyano-4-methylthiazole-5-carboxamide (0.15 g, 0.58 mmol) and hydroxylamine hydrochloride (0.09 g, 1.28 mmol) in ethanol (7 mL) was added triethylamine (0.2 mL, 1.43 mmol). The reaction mixture was heated to reflux for 3 hour, cooled to ambient temperature and concentrated in vacuo. The solid was washed with water and dried to afford the title compound in 70% yield (0.12 g): 1H NMR (300 MHz, CDCl3) δ 7.43-7.18 (m, 5H), 6.42 (br s, 1H), 5.74 (br s, 2H), 4.54 (d, J=5.3 Hz, 2H), 2.63 (s, 3H); MS (ES+) m/z 291.1 (M+1).

reactant | N-benzyl-2-cyano-4-methylthiazole-5-carboxamide | 0.58 mmol, 0.15 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C#N)C | C13H11N3OS
reactant | hydroxylamine hydrochloride | 1.28 mmol, 0.09 g | Cl.NO
reactant | triethylamine | 1.43 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | N-benzyl-2-(N′-hydroxycarbamimidoyl)-4-methylthiazole-5-carboxamide | 70% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C(N)=NO)C | C13H14N4O2S
